US09446348B2
1-(2,3-Dihydroxypropyl)-3-butylimidazolium Chloride (RTIL 5)
1-Butylimidazole (12.42 g, 100.0 mmol) and 3-chloro-1,2-propanediol (11.05 g, 100.0 mmol) were stirred in a 130° C. oil bath for 48 h, after which the flask was placed under vacuum and stirring continued at 130° C. for another 48 h. The residue was then dissolved in CH3OH, transferred to a tared flask, and concentrated to afford the product as a viscous brown oil (23.27 g, 92%). 1H NMR: δH ppm (400 MHz; DMSO-d6) 0.89 (t, 3H) 1.17-1.31 (m, 2H) 1.69-1.83 (m, 2H) 3.19-3.28 (m, 1H) 3.37-3.46 (m, 1H) 3.78 (dd, J=7.05, 4.49 Hz, 1H) 4.12 (dd, J=13.83, 7.60 Hz, 1H) 4.20 (t, J=7.14 Hz, 2H) 4.33 (dd, J=13.74, 3.11 Hz, 1H) 5.16 (br. s., 1H) 5.56 (d, J=5.31 Hz, 1H) 7.78 (t, J=1.74 Hz, 1H) 7.83 (t, J=1.74 Hz, 1H) 9.30 (t, J=1.47 Hz, 1H).

reactant | 1-Butylimidazole | 100.0 mmol, 12.42 g | C(CCC)N1C=NC=C1 | C7H12N2
reactant | 3-chloro-1,2-propanediol | 100.0 mmol, 11.05 g | ClCC(CO)O | C3H7ClO2
solvent | CH3OH | CO | CH4O
product | 1-(2,3-Dihydroxypropyl)-3-butylimidazolium Chloride | 23.27 g, 92% | [Cl-].OC(C[N+]1=CN(C=C1)CCCC)CO | InChI=1S/C10H19N2O2.ClH/c1-2-3-4-11-5-6-12(9-11)7-10(14)8-13;/h5-6,9-10,13-14H,2-4,7-8H2,1H3;1H/q+1;/p-1
